US05217978
Using the procedure described in Example 6, 4-methoxy-4-(3-thienyl)tetrahydropyran was reacted with di-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl) disulphide to give 4-methoxy-4-[2-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-ylthio)thien-4-yl]-tetrahydropyran in 26% yield, m.p. 106°-108° C.

reactant | 4-methoxy-4-(3-thienyl)tetrahydropyran | COC1(CCOCC1)C1=CSC=C1 | C10H14O2S
reactant | di-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl) disulphide | CN1C(CCC2=CC(=CC=C12)SSC=1C=C2CCC(N(C2=CC1)C)=O)=O | C20H20N2O2S2
product | 4-methoxy-4-[2-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-ylthio)thien-4-yl]-tetrahydropyran | 26% yield | COC1(CCOCC1)C=1C=C(SC1)SC=1C=C2CCC(N(C2=CC1)C)=O | C20H23NO3S2
